US06362178B1
4-Ethoxy-3-(5-ethyl-4-oxo-7-propyl-3,4-dihydroimidazo[5,1-f][1,2,4]triazin-2-yl)-benzene-sulphonyl chloride
At 0° C., 1.70 g (5.21 mmol) of 2-(2-ethoxy-phenyl)-5-ethyl-7-propyl-3H-imidazo[5,1-f][1,2,4]triazin-4-one are added slowly to 3.12 ml of chlorosulphonic acid. The reaction mixture is stirred at room temperature ovemight and then poured into ice-water and extracted with dichloromethane. This gives 2.10 g (94%) of a colourless foam.

reactant | 2-(2-ethoxy-phenyl)-5-ethyl-7-propyl-3H-imidazo[5,1-f][1,2,4]triazin-4-one | 5.21 mmol, 1.70 g | C(C)OC1=C(C=CC=C1)C1=NN2C(C(N1)=O)=C(N=C2CCC)CC | C18H22N4O2
reactant | chlorosulphonic acid | 3.12 ml | ClS(=O)(=O)O | ClHO3S
product | 4-Ethoxy-3-(5-ethyl-4-oxo-7-propyl-3,4-dihydroimidazo[5,1-f][1,2,4]triazin-2-yl)-benzene-sulphonyl chloride | C(C)OC1=C(C=C(C=C1)S(=O)(=O)Cl)C1=NN2C(C(N1)=O)=C(N=C2CCC)CC | C18H21ClN4O4S
